US08664401B2
Step C) (+/−)-2-({cis-4-[(4-bromophenoxy)methyl]cyclohexyl}oxy)tetrahydro-2H-pyran
4-Bromophenol (0.344 g, 2.0 mmol) was added to a solution of (+/−)-[cis-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methanol (0.387 g, 1.81 mmol) in THF (10 mL). Triphenylphosphine (0.474 g, 1.81 mmol) and triethylamine (0.183 g, 1.81 mmol) were added. The resulting solution was cooled to 0° C. and DIAD (0.365 g, 1.81 mmol) was added by dropwise addition. After 18 hours the reaction was quenched by addition of water and extracted with ether (2×100 mL). The organic layers were combined and washed with 1N NaOH (2×100 mL) then water (2×100 mL). The organic layer was dried (MgSO4), filtered and concentrated to give a clear oil. Purification by flash column chromatography on a Biotage SNAP cartridge Kp-sil 100 g column (hexanes/ethyl acetate 9:1) afforded the title compound as a white solid (324 mg, 48%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.41-1.75 (m, 11H) 1.75-1.98 (m, 4H) 3.39-3.54 (m, 1H) 3.70-3.80 (m, 2H) 3.83-3.97 (m, 2H) 4.55-4.69 (m, 1H) 6.66-6.82 (m, 2H) 7.29-7.42 (m, 2H).

reactant | 4-Bromophenol | 2.0 mmol, 0.344 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | (+/−)-[cis-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methanol | 1.81 mmol, 0.387 g | O1C(CCCC1)O[C@H]1CC[C@H](CC1)CO | C12H22O3
reactant | Triphenylphosphine | 1.81 mmol, 0.474 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 1.81 mmol, 0.183 g | C(C)N(CC)CC | C6H15N
reactant | DIAD | 1.81 mmol, 0.365 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (+/−)-2-({cis-4-[(4-bromophenoxy)methyl]cyclohexyl}oxy)tetrahydro-2H-pyran | 324 mg, 48% | BrC1=CC=C(OC[C@H]2CC[C@H](CC2)OC2OCCCC2)C=C1 | C18H25BrO3
